US04382937
6-Amino-2-chloro-3-nitropyridine was allowed to react with ethanethiol to give 6-amino-2-ethylthio-3-nitropyridine (m.p. 131.5°-132° C.). The product was then treated with acetic anhydride to give 6-acetylamino-2-ethylthio-3-nitro-pyridine (m.p. 167.5°-168° C.). The nitro group of this product was reduced in a usual manner to the amino group. The amino compound, without purification, was dissolved in 42% tetrafluoroboric acid, and then diazotized by addition of sodium nitrite to give 6-acetylamino-2-ethylthio-3-pyridine-diazonium fluoroborate decomposing at 132°-133° C. The diazonium salt was subjected to Schiemann reaction under reflux in petroleum benzine. The reaction product was isolated and purified in a usual manner to give 6-acetylamino-2-ethylthio-3-fluoro-pyridine (m.p. 110°-113.5° C.). Then the product was allowed to react with ethyl ethoxymethylenemalonate to give diethyl N-(2-ethylthio-3-fluoro-6-pyridinyl)aminomethylenemalonate (m.p. 77.5°-78.5° C.), which was subjected to cyclization reaction to give ethyl 7-ethylthio-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate (m.p. 280°-284° C.). The 1,8-naphthyridine derivative thus obtained was treated with 2-fluoroethyl p-toluenesulfonate to give ethyl 7-ethylthio-6-fluoro-1-(2-fluoroethyl)-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate (m.p. 271°-273° C.), which was then oxidized with m-chloroperbenzoic acid to give ethyl 7-ethylsulfonyl-6-fluoro-1-(2-fluoroethyl)-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate (m.p. 176°-178° C.).

reactant | 6-Amino-2-chloro-3-nitropyridine | NC1=CC=C(C(=N1)Cl)[N+](=O)[O-] | C5H4ClN3O2
reactant | ethanethiol | C(C)S | C2H6S
product | 6-amino-2-ethylthio-3-nitropyridine | NC1=CC=C(C(=N1)SCC)[N+](=O)[O-] | C7H9N3O2S
